US03931199
11 g of potassium permanganate is added in small portions to a solution of 6 g of 1-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)-2-methyl-1 -propanol in 160 ml of acetone, and the mixture is stirred at 20°C for 3 hours. The reaction mixture is filtered, and the residue is washed thoroughly with chloroform. The filtrate and washings are concentrated, and the residue is purified by column chromatography on silica gel with chloroform as eluent, and further by recrystallization from acetone to give 7-isobutyryl-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine melting at 155°-156°C.

reactant | potassium permanganate | 11 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 1-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)-2-methyl-1 -propanol | 6 g | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(C(C)C)O | C16H17NO2
solvent | acetone | 160 ml | CC(=O)C | C3H6O
product | 7-isobutyryl-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine | C(C(C)C)(=O)C=1C=CC2=C(C(C=3C(=NC=CC3)O2)=O)C1 | C16H13NO3
